US04086219
(h) L-Leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride
A solution of 6.43 g. of Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride in 200 ml. of methanol with 250 mg. of 20% palladium-on-carbon is stirred under hydrogen gas for three hours, the catalyst removed by filtration, and the filtrate evaporated to dryness at 45° C. under reduced pressure. The dried residue is a foam which is suitable for use without further purification.

reactant | Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-Leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C19H36N8O4.ClH/c1-11(2)9-12(20)16(29)26-13(5-3-7-24-19(22)23)18(31)27-8-4-6-14(27)17(30)25-10-15(21)28;/h11-14H,3-10,20H2,1-2H3,(H2,21,28)(H,25,30)(H,26,29)(H4,22,23,24);1H/t12-,13-,14-;/m0./s1
